US06294616B1
a) Synthesis of 5-phenylnorbornene
Dicyclopentadiene (180 g), styrene (140 g), toluene (36 g), and N,N-diethylbydroxylamine (0.35 g) (added as a polymerization inhibitor) were added to a stainless steel reactor. The mixture was heated to 150° C. for 6 hours. The low boiling fraction was removed from the resulting reaction mixture on the roto-vap. The remaining higher boiling fraction was fractionally distilled. The fraction distilling at 130° C. @ 4 mm Hg was analyzed by GC and found to be 96% 5-phenylnorbornene.

reactant | Dicyclopentadiene | 180 g | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | styrene | 140 g | C=CC1=CC=CC=C1 | C8H8
solvent | toluene | 36 g | C1(=CC=CC=C1)C | C7H8
product | 5-phenylnorbornene | C1(=CC=CC=C1)C1C2C=CC(C1)C2 | C13H14
